US07884207B2
Potassium phthalimide (2.59 g, 14.0 mmol) was added to a solution of 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol (5.07 g, 13.3 mmol) in DMF (50 mL), and the reaction mixture was stirred at room temperature overnight. An analysis by HPLC indicated the presence of starting material, and additional potassium phthalimide (1 g) was added. The reaction was stirred for an additional five hours, and then concentrated under reduced pressure. The residue was triturated with methanol, and the resulting white solid was isolated by filtration. The filtrate was concentrated under reduced pressure, and the residue was triturated with methanol to afford additional white solid, which was isolated by filtration. The two solids were combined to provide 2-({4-amino-1-[(1-hydroxycyclohexyl)methyl]-1H-imidazo[4,5-c]quinolin-2-yl}methyl)-1H-isoindole-1,3(2H)-dione.

reactant | Potassium phthalimide | 14.0 mmol, 2.59 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol | 13.3 mmol, 5.07 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCCCC2)O)CCl | C18H21ClN4O
reactant | potassium phthalimide | 1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-({4-amino-1-[(1-hydroxycyclohexyl)methyl]-1H-imidazo[4,5-c]quinolin-2-yl}methyl)-1H-isoindole-1,3(2H)-dione | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCCCC2)O)CN2C(C1=CC=CC=C1C2=O)=O | C26H25N5O3
